US07105507B2
1-(3-Pyridinyl)piperazin-2-one
Bis(1,1-dimethylethyl)diazenedicarboxylate (4.1 g, 18 mmol) in tetrahydrofuran (100 mL) was added dropwise to a stirred, cooled (0° C.) solution of 2-[(2-hydroxyethyl)amino]-N-(3-pyridinyl)acetamide (Description 142, 2.5 g, 13 mmol) and tributylphosphine (4.2 mL, 16.9 mmol) in tetrahydrofuran (300 mL) and the mixture was stirred at room temperature for 16 hours. Ethereal hydrogen chloride (1M, 10 mL) was added and the mixture was stirred at room temperature for 1 hour. Triethylamine (6 mL, 42 mmol) was added the solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2/MeOH/NH3(Aq.) (90:10:1), to give the title compound (800 mg, 35%). m/z (ES+) 178 (M+1).

reactant | 2-[(2-hydroxyethyl)amino]-N-(3-pyridinyl)acetamide | 13 mmol, 2.5 g | OCCNCC(=O)NC=1C=NC=CC1 | C9H13N3O2
reactant | tributylphosphine | 16.9 mmol, 4.2 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | hydrogen chloride | 1M, 10 mL | Cl | ClH
reactant | Triethylamine | 42 mmol, 6 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 1-(3-Pyridinyl)piperazin-2-one | 800 mg, 35% | N1=CC(=CC=C1)N1C(CNCC1)=O | C9H11N3O
